US08486953B2
4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methyl-N-(3-(methylamino)propyl)thieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.073 g, 0.193 mmol) was added into a mixture of methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.07 g, 0.175 mmol) and Hünig's base (30 μL, 0.175 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. tert-Butyl 3-aminopropyl(methyl)carbamate (0.164 g, 0.875 mmol) was added, the coolant removed and the reaction stirred at ambient temperature overnight. The product was recrystallised from EtOAc to yield colourless solid. The solid was dissolved in DCM (2.0 mL), treated with trifluoroacetic acid (0.50 mL) and the reaction stirred at ambient temperature for 2 hours. The reaction mixture was applied to an SCX cartridge and eluted with MeOH (30 mL) followed by ammonia in MeOH. Evaporation of appropriate fractions gave the product as a colourless solid (0.042 g, 50%).

reactant | HATU | 0.193 mmol, 0.073 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.175 mmol, 0.07 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC2CCOCC2 | C20H20FN3O4S
reactant | Hünig's base | 0.175 mmol, 30 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 3-aminopropyl(methyl)carbamate | 0.875 mmol, 0.164 g | NCCCN(C(OC(C)(C)C)=O)C | C9H20N2O2
reactant | trifluoroacetic acid | 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methyl-N-(3-(methylamino)propyl)thieno[2,3-d]pyrimidine-6-carboxamide | 0.042 g, 50% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)NCCCNC)OC2CCOCC2 | C23H28FN5O3S
